US07595426B2
Benzyltriphenylphosphonium bromide;
benzyltriphenylphosphonium chloride; butyltriphenylphosphonium bromide; butyltriphenylphosphonium chloride; ethyltriphenylphosphonium acetate; ethyltriphenylphosphonium bromide; ethyltriphenylphosphonium iodide; methyltriphenylphosphonium bromide; tetrabutylphosphonium bromide; tetraphenylphosphonium bromide; tetrakisdiethylaminophosphonium bromide;

reactant | butyltriphenylphosphonium chloride | [Cl-].C(CCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | ethyltriphenylphosphonium acetate | C(C)(=O)[O-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | tetrakisdiethylaminophosphonium bromide | [Br-].C(C)N(CC)[P+](N(CC)CC)(N(CC)CC)N(CC)CC
catalyst | benzyltriphenylphosphonium chloride | [Cl-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | butyltriphenylphosphonium bromide | [Br-].C(CCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | ethyltriphenylphosphonium bromide | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | ethyltriphenylphosphonium iodide | [I-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | methyltriphenylphosphonium bromide | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | tetrabutylphosphonium bromide | [Br-].C(CCC)[P+](CCCC)(CCCC)CCCC
catalyst | tetraphenylphosphonium bromide | [Br-].C1(=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | Benzyltriphenylphosphonium bromide | [Br-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C25H22P.BrH/c1-5-13-22(14-6-1)21-26(23-15-7-2-8-16-23,24-17-9-3-10-18-24)25-19-11-4-12-20-25;/h1-20H,21H2;1H/q+1;/p-1
